US05202399
As in the previous examples, borazine (1.618 g, 20.1 mmol) and 2-butyne (20 mmol) were reacted in the presence of RhH(CO)(PPh3)3 (0.0165 g, 0.018 mmol) for four hours at room temperature. Fractionation of the resulting reaction mixture gave 0.2702 g (2.01 mmol) of B-butenyl-borazine stopping in a -55° C. trap. GLC analysis of the product indicates that it is composed of a 3:2 mixture of B-trans-(2-cis-butenyl)borazine and B-trans-(1-butenyl)borazine. Pure samples of each isomer were prepared by preparative G.L.C.

reactant | borazine | 20.1 mmol, 1.618 g | N1BNBNB1 | B3H6N3
reactant | 2-butyne | 20 mmol | CC#CC | C4H6
catalyst | RhH(CO)(PPh3)3 | 0.018 mmol, 0.0165 g | [C-]#[O+].C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Rh]
product | B-butenyl-borazine | 2.01 mmol, 0.2702 g | C(=CCC)B1NBNBN1 | C4H12B3N3
